US08183271B2
4-Chloromethyl-4′-trifluoromethylbiphenyl
A solution of 5.0 g (19.82 mmol) of (4′-trifluoromethylbiphenyl-4-yl)methanol in 40 ml of chloroform is mixed with 2.89 ml (39.65 mmol) of thionyl chloride dissolved in 10 ml of chloroform, and the mixture is stirred at room temperature for 12 hours. After reaction is complete, the reaction mixture is concentrated to dryness, and the residue is taken up ethyl acetate and washed with saturated sodium carbonate solution. The organic phase is subsequently separated off, dried over sodium sulfate and concentrated after filtration. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 9:1). 5.26 g (19.43 mmol, 98% of theory) of a colorless solid are obtained.

reactant | (4′-trifluoromethylbiphenyl-4-yl)methanol | 19.82 mmol, 5.0 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)CO)(F)F | C14H11F3O
reactant | thionyl chloride | 39.65 mmol, 2.89 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-4′-trifluoromethylbiphenyl | ClCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C14H10ClF3
